Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],0.668705438979
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1]=[C:2][H:3],3.8055271392
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][O:8]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12],-2.9003317993700004
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],3.97251487349
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.44893848743
[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10],1.28052712138
[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]#[C:6][H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[H:11],6.33793999472
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],6.02297969239
[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.0178470240100002
[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.5261889301
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11].[H:9],1.8312426687
[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-2.64592744541
[O:1]=[C:2]=[C:9]([H:10])[H:11].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],-1.05458081912
[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]=[O:7])[C:9]([H:10])([H:11])[H:12].[H:8],1.85777903421
[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.97379205022
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.87972649245
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4],2.58949524968
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.00473921451
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3],1.00266861148
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9],3.65550219886
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],5.0390692
[O:1]=[C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]1[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-0.56015762498
[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.42846522132
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.6900909532
[C:2][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:5]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-1.7507008185900004
[C:7](#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.877675454691
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5].[O:6]=[C:7]([H:8])[H:9],1.6932481410100002
[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.92546102104
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.71349131732
[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3],7.20914407146
